US05610303
4-[3-(1-benzylpiperidin-4-yl)propenoyl]nitrobenzene
Under ice cooling, 0.40 g of 64% sodium hydride was added to 3.03 g of diethyl (4-nitrobenzoylmethyl)phosphonate dissolved in 30 ml of tetrahydrofuran. After about 10 minutes, 4.07 g of 4-formyl-1-benzylpiperidine was added to the mixture. The mixture was stirred under ice cooling for 30 minutes and then stirred at room temperature for about 16 hours. After completion of the reaction, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The obtained residue was applied to silica gel column chromatography to obtain 1.99 g of the title compound as pale yellow crystal.

reactant | sodium hydride | 0.40 g | [H-].[Na+]
reactant | diethyl (4-nitrobenzoylmethyl)phosphonate | 3.03 g | [N+](=O)([O-])C1=CC=C(C(=O)CP(OCC)(OCC)=O)C=C1 | C12H16NO6P
reactant | 4-formyl-1-benzylpiperidine | 4.07 g | C(=O)C1CCN(CC1)CC1=CC=CC=C1 | C13H17NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[3-(1-benzylpiperidin-4-yl)propenoyl]nitrobenzene | 1.99 g | C(C1=CC=CC=C1)N1CCC(CC1)C=CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C21H22N2O3
